US09062033B2
methyl 2-chloro-5-(methylsulfonyl)benzoate (D62)
2-chloro-5-(methylsulfonyl)benzoic acid (4 g, 0.016 mol) was dissolved in MeOH (10 ml) and thionyl chloride (1 ml) was added. The reaction was stirred for 72 h at RT. Solvents were evaporated and crude solid was dissolved in DCM and washed with saturated aqueous solution of NaHCO3. The organic solvent was dried (Na2SO4) and evaporated to obtain 0.88 g of the title compound as white solid.

reactant | 2-chloro-5-(methylsulfonyl)benzoic acid | 0.016 mol, 4 g | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7ClO4S
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 10 ml | CO | CH4O
product | methyl 2-chloro-5-(methylsulfonyl)benzoate | 0.88 g | ClC1=C(C(=O)OC)C=C(C=C1)S(=O)(=O)C | C9H9ClO4S
